US04469636
The procedure of Example 5 was followed using a reaction mixture composed of 1 g. of antimony metal, 50 g. of octanoic acid, 20 ml. of n-heptane and 0.45 g. of 70% aqueous HNO3. The reaction temperature was about 120° C. and the HNO3 was added dropwise as in Example 5. The water of reaction was removed azeotropically with n-heptane and was collected in the Dean-Stark tube as in Example 6. The clear solution which resulted was concentrated and dried to produce a quantitative solid residue of Antimony(III) octanoate which had an UV-visible spectrum band at about 297 nm.

reactant | antimony | [Sb] | Sb
reactant | octanoic acid | C(CCCCCCC)(=O)O | C8H16O2
reactant | n-heptane | CCCCCCC | C7H16
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | Antimony(III) octanoate | C(CCCCCCC)(=O)[O-].[Sb+3].C(CCCCCCC)(=O)[O-].C(CCCCCCC)(=O)[O-] | InChI=1S/3C8H16O2.Sb/c3*1-2-3-4-5-6-7-8(9)10;/h3*2-7H2,1H3,(H,9,10);/q;;;+3/p-3
